US07521455B2
(2) Manufacture of 3-{4-[(1-benzyl-3-pyrrolidinyl)oxy]phenyl}-2-methyl-4(3H)-quinazolinone
1-benzyl-3-pyrrolidinol and 2-methyl-3-(4-hydroxyphenyl)-4-(3H) quinazolinone synthesized according to Example 1-(1) and -(2) were etherated by the Mitsunobu reaction according to Example 117-(2), and the target compound was thus obtained.

reactant | 1-benzyl-3-pyrrolidinol | C(C1=CC=CC=C1)N1CC(CC1)O | C11H15NO
reactant | 2-methyl-3-(4-hydroxyphenyl)-4-(3H) quinazolinone | CC1=NC2=CC=CC=C2C(N1C1=CC=C(C=C1)O)=O | C15H12N2O2
product | 3-{4-[(1-benzyl-3-pyrrolidinyl)oxy]phenyl}-2-methyl-4(3H)-quinazolinone | C(C1=CC=CC=C1)N1CC(CC1)OC1=CC=C(C=C1)N1C(=NC2=CC=CC=C2C1=O)C | C26H25N3O2
